### PR TITLE
[Merged by Bors] - feat: improper integration by parts

### PR DESCRIPTION
**Pull request by llllvvuu**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 1]
```diff
@@ -1054,4 +1054,80 @@ theorem integrableOn_Ioi_comp_mul_right_iff (f : ℝ → E) (c : ℝ) {a : ℝ}
...
+    exact (Function.update_noteq (ne_of_lt hx) a' (u * v)).symm
+  simpa using integral_Iic_of_hasDerivAt_of_tendsto
+    (continuousWithinAt_update_same.mpr h_zero) hderiv huv htendsto
+
+theorem integral_Iic_mul_deriv_eq_deriv_mul
+    (hu : ∀ x ∈ Iio a, HasDerivAt u (u' x) x) (hv : ∀ x ∈ Iio a, HasDerivAt v (v' x) x)
+    (huv' : IntegrableOn (u * v') (Iic a)) (hu'v : IntegrableOn (u' * v) (Iic a))
+    (h_zero : Tendsto (u * v) (𝓝[<] a) (𝓝 a')) (h_infty : Tendsto (u * v) atBot (𝓝 b')) :
+    ∫ (x : ℝ) in Iic a, u x * v' x = a' - b' - ∫ (x : ℝ) in Iic a, u' x * v x := by
+  rw [eq_sub_iff_add_eq, ← integral_add (by exact huv') (by exact hu'v)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:1128]: Same here:
```suggestion
  rw [Pi.mul_def] at huv' hu'v
  rw [eq_sub_iff_add_eq, ← integral_add huv' hu'v]
```

File: test/RewriteSearch/Polynomial.lean [hunk 2]
```diff
@@ -7,7 +7,7 @@ set_option autoImplicit true
 
 open Polynomial
 
-/-- info: Try this: rw [@natDegree_sub, @sub_eq_add_neg, @natDegree_C_add, @natDegree_neg] -/
+/-- info: Try this: rw [@natDegree_sub, @sub_eq_neg_add, @natDegree_add_C, @natDegree_neg] -/
```
Comment (Ruben-VandeVelde) [inline test/RewriteSearch/Polynomial.lean:10]: Probably more robust to exclude one of these in `rw_search` below

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 3]
```diff
@@ -1054,4 +1054,80 @@ theorem integrableOn_Ioi_comp_mul_right_iff (f : ℝ → E) (c : ℝ) {a : ℝ}
...
+    exact (Function.update_noteq (ne_of_gt hx) a' (u * v)).symm
+  simpa using integral_Ioi_of_hasDerivAt_of_tendsto
+    (continuousWithinAt_update_same.mpr h_zero) hderiv huv htendsto
+
+theorem integral_Ioi_mul_deriv_eq_deriv_mul
+    (hu : ∀ x ∈ Ioi a, HasDerivAt u (u' x) x) (hv : ∀ x ∈ Ioi a, HasDerivAt v (v' x) x)
+    (huv' : IntegrableOn (u * v') (Ioi a)) (hu'v : IntegrableOn (u' * v) (Ioi a))
+    (h_zero : Tendsto (u * v) (𝓝[>] a) (𝓝 a')) (h_infty : Tendsto (u * v) atTop (𝓝 b')) :
+    ∫ (x : ℝ) in Ioi a, u x * v' x = b' - a' - ∫ (x : ℝ) in Ioi a, u' x * v x := by
+  rw [eq_sub_iff_add_eq, ← integral_add (by exact huv') (by exact hu'v)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:1101]: Same:
```suggestion
  rw [Pi.mul_def] at huv' hu'v
  rw [eq_sub_iff_add_eq, ← integral_add huv' hu'v]
```

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 4]
```diff
@@ -1054,4 +1054,80 @@ theorem integrableOn_Ioi_comp_mul_right_iff (f : ℝ → E) (c : ℝ) {a : ℝ}
...
+    (h_bot : Tendsto (u * v) atBot (𝓝 a')) (h_top : Tendsto (u * v) atTop (𝓝 b')) :
+    ∫ (x : ℝ), u' x * v x + u x * v' x = b' - a' :=
+  integral_of_hasDerivAt_of_tendsto (fun x ↦ (hu x).mul (hv x)) huv h_bot h_top
+
+theorem integral_mul_deriv_eq_deriv_mul
+    (hu : ∀ x, HasDerivAt u (u' x) x) (hv : ∀ x, HasDerivAt v (v' x) x)
+    (huv' : Integrable (u * v')) (hu'v : Integrable (u' * v))
+    (h_bot : Tendsto (u * v) atBot (𝓝 a')) (h_top : Tendsto (u * v) atTop (𝓝 b')) :
+    ∫ (x : ℝ), u x * v' x = b' - a' - ∫ (x : ℝ), u' x * v x := by
+  rw [eq_sub_iff_add_eq, ← integral_add (by exact huv') (by exact hu'v)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:1074]: `by exact` is a bit of a code smell; this seems to work:
```suggestion
  rw [Pi.mul_def] at huv' hu'v
  rw [eq_sub_iff_add_eq, ← integral_add huv' hu'v]
```

**Comment by loefflerd** [comment]
Can you add a section header for the docs? Something like
````
/-! 
## Integration by parts
-/
````

It would also be nice to add cross-references in the docstrings between this section and the section in `MeasureTheory.Integral.FundThmCalculus` with the corresponding results for finite intervals.

**Comment by llllvvuu** [comment]
Added!

**Comment by loefflerd** [comment]
Looks good to me!

maintainer merge

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 5]
```diff
@@ -1054,4 +1054,96 @@ theorem integrableOn_Ioi_comp_mul_right_iff (f : ℝ → E) (c : ℝ) {a : ℝ}
...
+  let f := Function.update (u * v) a a'
+  have hderiv : ∀ x ∈ Ioi a, HasDerivAt f (u' x * v x + u x * v' x) x := by
+    intro x hx
+    apply ((hu x hx).mul (hv x hx)).congr_of_eventuallyEq
+    filter_upwards [Ioi_mem_nhds hx] with x (hx : a < x)
+    exact Function.update_noteq (ne_of_gt hx) a' (u * v)
+  have htendsto : Tendsto f atTop (𝓝 b') := by
+    apply h_infty.congr'
+    filter_upwards [Ioi_mem_atTop a] with x (hx : a < x)
+    exact (Function.update_noteq (ne_of_gt hx) a' (u * v)).symm
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:1101]:
```suggestion
    intro x (hx : a < x)
    apply ((hu x hx).mul (hv x hx)).congr_of_eventuallyEq
    filter_upwards [eventually_ne_nhds hx.ne.symm] with y hy
    exact Function.update_noteq hy a' (u * v)
  have htendsto : Tendsto f atTop (𝓝 b') := by
    apply h_infty.congr'
    filter_upwards [eventually_ne_atTop a] with x hx
    exact (Function.update_noteq hx a' (u * v)).symm
```

I think this is a bit cleaner. Same for the similar proof below.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 6]
```diff
@@ -1054,4 +1054,96 @@ theorem integrableOn_Ioi_comp_mul_right_iff (f : ℝ → E) (c : ℝ) {a : ℝ}
...
+  simpa only [add_comm] using integral_deriv_mul_eq_sub hu hv (hu'v.add huv') h_bot h_top
+
+/-- For finite intervals, see: `intervalIntegral.integral_deriv_mul_eq_sub`. -/
+theorem integral_Ioi_deriv_mul_eq_sub
+    (hu : ∀ x ∈ Ioi a, HasDerivAt u (u' x) x) (hv : ∀ x ∈ Ioi a, HasDerivAt v (v' x) x)
+    (huv : IntegrableOn (u' * v + u * v') (Ioi a))
+    (h_zero : Tendsto (u * v) (𝓝[>] a) (𝓝 a')) (h_infty : Tendsto (u * v) atTop (𝓝 b')) :
+    ∫ (x : ℝ) in Ioi a, u' x * v x + u x * v' x = b' - a' := by
+  rw [← Ici_diff_left] at h_zero
+  let f := Function.update (u * v) a a'
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:1092]: I would argue that this should instead be handled directly by `integral_Ioi_of_hasDerivAt_of_tendsto`, which should assume existence of a limit rather than continuity. We could then also avoid changing the function by applying FTC on smaller intervals not touching the left bound. If you want to tinker with it that would be great, otherwise can you leave a TODO/open an issue about it?

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean (hunk 6 above)
Comment (llllvvuu) [reply Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:1094]: I added the TODO comment and started tinkering here https://github.com/leanprover-community/mathlib4/pull/11226/files
